US07557213B2
Preparation of 1-(3-Bromo-benzyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 50 mg (0.17 mmol) of 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one, and 1-Bromo-3-bromomethyl-benzene 55 mg (0.22 mmol), to give 17 mg of desired compound. LCMS (M+H)+: 463.1.

reactant | 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one | 0.17 mmol, 50 mg | COC1=C(C=C(C(=O)C2=CNC3=NC=CC=C3C2=O)C=C1)C | C17H14N2O3
reactant | 1-Bromo-3-bromomethyl-benzene | 0.22 mmol, 55 mg | BrC1=CC(=CC=C1)CBr | C7H6Br2
product | 1-(3-Bromo-benzyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one | 17 mg | BrC=1C=C(CN2C=C(C(C3=CC=CN=C23)=O)C(C2=CC(=C(C=C2)OC)C)=O)C=CC1 | C24H19BrN2O3
